US08030512B2
Into a vessel having an inner volume of 30 ml which was equipped with a stirring apparatus, a thermometer and a reflux condenser, 0.460 g (1.00 mmol) of 4-[(4-bromo-2,6-difluorophenyl)difluoromethoxy]pentafluorosulfanylbenzene, 0.411 g (1.15 mmol) of 4-(4-n-pentylcyclohexyl)-phenylboronic acid pinacol ester, 0.070 g (0.061 mmol) of tetrakis-(triphenylphosphine)palladium, 0.425 g (2.02 mmol) of tripotassium phosphate in the powder form and 5 ml of 1,4-dioxane were placed, and the reaction was allowed to proceed at 100° C. for 12 hours with stirring. After the reaction was completed, the reaction mixture was filtered, and the filtrate was concentrated under a reduced pressure. Then, the resulting residue was purified by the flush column chromatography (eluent: hexane), and 0.36 g (isolated yield: 59%) of 4-{[3,5-difluoro-4′-(4-n-pentylcyclohexyl)-biphenyl-4-yl]difluoromethoxy}pentafluorosulfanylbenzene was obtained as a white solid. The reaction scheme is shown in the following:

reactant | 4-[(4-bromo-2,6-difluorophenyl)difluoromethoxy]pentafluorosulfanylbenzene | 1.00 mmol, 0.460 g | BrC1=CC(=C(C(=C1)F)C(OC1=CC=C(C=C1)S(F)(F)(F)(F)F)(F)F)F | C13H6BrF9OS
reactant | 4-(4-n-pentylcyclohexyl)-phenylboronic acid pinacol ester | 1.15 mmol, 0.411 g | C(CCCC)C1CCC(CC1)C1=CC=C(C=C1)B1OC(C)(C)C(C)(C)O1 | C23H37BO2
reactant | tripotassium phosphate | 2.02 mmol, 0.425 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 4-{[3,5-difluoro-4′-(4-n-pentylcyclohexyl)-biphenyl-4-yl]difluoromethoxy}pentafluorosulfanylbenzene | 0.36 g, yield: 59% | FC=1C=C(C=C(C1C(OC1=CC=C(C=C1)S(F)(F)(F)(F)F)(F)F)F)C1=CC=C(C=C1)C1CCC(CC1)CCCCC | C30H31F9OS
